US04826844
(c) 1-[1-(3-Methoxyphenyl)-3-(1-piperazinyl)propyl]cyclohexanol
A solution of 1-[1-(3-methoxyphenyl)-3-[4-(phenylmethyl)-1-piperazinyl]-1-propenyl]cyclohexanol (3.09 g, 7.1 mmole) in ethanol (50 mL) containing sodium formate (0.5 g, 7.1 mmole) and formic acid (1.5 g, 30 mmole) was added to a suspension of 10% Pd/C (3.0 g) in ethanol (50 mL) and the mixturre refluxed for 2 hours under nitrogen. The catalyst was filtered and the filtrate evaporated. The residue was partitioned between 4N sodium hydroxide (200 mL) and ethyl acetate (200 mL). The layers were separated. The aqueous phase was extracted with ethyl acetate. The combined organic solution was washed with brine, dried over magnesium sulfate and evaporated to obtain the title compound as an oil.

reactant | 1-[1-(3-methoxyphenyl)-3-[4-(phenylmethyl)-1-piperazinyl]-1-propenyl]cyclohexanol | 7.1 mmole, 3.09 g | COC=1C=C(C=CC1)C(=CCN1CCN(CC1)CC1=CC=CC=C1)C1(CCCCC1)O | C27H36N2O2
reactant | sodium formate | 7.1 mmole, 0.5 g | C(=O)[O-].[Na+]
reactant | formic acid | 30 mmole, 1.5 g | C(=O)O | CH2O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | 3.0 g | [Pd] | Pd
product | 1-[1-(3-Methoxyphenyl)-3-(1-piperazinyl)propyl]cyclohexanol | COC=1C=C(C=CC1)C(CCN1CCNCC1)C1(CCCCC1)O | C20H32N2O2
